US05705499
5,11-Dihydro-11-ethyl-5-methyl-8-(cis-2-phenylethen-1-yl)-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
5,11-Dihydro-11-ethyl-5-methyl-8-phenylethynyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (0.12 g, 0.34 mmol) was hydrogenated over Lindlar catalyst in ethanol under 50 p.s.i. of hydrogen. Workup and purification as described in Example 42 afforded 20 mg of the title compound as a yellow-orange oil.

reactant | 5,11-Dihydro-11-ethyl-5-methyl-8-phenylethynyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.34 mmol, 0.12 g | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)C#CC3=CC=CC=C3)=O)C)C=CC=N2 | C22H18N4O
reactant | hydrogen | [H][H] | H2
catalyst | Lindlar catalyst | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
solvent | ethanol | C(C)O | C2H6O
product | 5,11-Dihydro-11-ethyl-5-methyl-8-(cis-2-phenylethen-1-yl)-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 20 mg | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)\C=C/C3=CC=CC=C3)=O)C)C=CC=N2 | C22H20N4O
